US07910585B2
At room temperature, a solution of 2-Bromomethyl-3-methoxy-6-nitro-benzoic acid methyl ester (crude 7.0 g, 18.2 mmol) in 46 mL of THF is treated with 2M solution of methylamine in THF (27.3 mL, 54.6 mmol), and the mixture is stirred for 4 hours at the room temperature. The reaction mixture is quenched with a saturated ammonium chloride solution and partitioned between ethyl acetate. The organic layer is washed with brine and then dried over Na2SO4 following concentrated to give 4-Methoxy-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one (3.1 g) as orange solid in 77% yields (2 steps). 1H-NMR (400 MHz, δ, ppm) CDCl3: 3.19 (s, 3H), 3.99 (s, 3H), 4.32 (s, 2H), 7.0 (d, 1H), 7.89 (d, 1H).

reactant | 2-Bromomethyl-3-methoxy-6-nitro-benzoic acid methyl ester | COC(C1=C(C(=CC=C1[N+](=O)[O-])OC)CBr)=O | C10H10BrNO5
reactant | methylamine | CN | CH5N
solvent | THF | 46 mL | C1CCOC1 | C4H8O
solvent | THF | 54.6 mmol, 27.3 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one | 3.1 g | COC1=C2CN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C10H10N2O4
